US07521457B2
a) indan-4-ylamine
24 ml (349 mmol) 65% nitric acid are cooled to 0-5° C. 28 ml (518.5 mmol) of concentrated sulphuric acid are slowly added dropwise while cooling with ice. This solution is cooled to 5° C. and slowly added dropwise to 30 ml (232 mmol) indane cooled to 0-5° C., with vigorous stirring and further cooling with ice. The reaction mixture is stirred for 30 min at 0-5° C., and then heated to 25° C. for 1 h with stirring. Then the solution is added dropwise to 150 ml ice/water and stirred for 30 min. The aqueous phase is extracted three times with 200 ml diethyl ether. The combined organic phases are washed twice with 200 ml saturated sodium hydrogen carbonate solution and once with 150 ml distilled water. Then the organic phase is dried with MgSO4 and the solvent is eliminated in vacuo. The crude product is dissolved in 250 ml of methanol and combined with 4.5 g Raney nickel. The reaction mixture is hydrogenated for 16 h at 3 bar H2 pressure and 25° C. Then the catalyst is filtered off and the solvent is eliminated in vacuo. The crude product is purified by column chromatography. The carrier used is silica gel and the eluant used is a mixture of cyclohexane:ethyl acetate (75:25).

reactant | nitric acid | 349 mmol, 24 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | 518.5 mmol, 28 ml | S(O)(O)(=O)=O | H2O4S
reactant | indane | 232 mmol, 30 ml | C1CCC2=CC=CC=C12 | C9H10
product | indan-4-ylamine | C1CCC2=C(C=CC=C12)N | C9H11N
